US04714702
4.0 g of N-(2-amino-5-nitrobenzoyl)-2,4-dimethylaniline and 2.36 g of pyridine are dissolved in 50 ml of tetrahydrofuran, and 2.18 g of fluoracetyl chloride are added dropwise thereto under ice-cooling. The mixture is then stirred at room temperature for 5 hours. The mixture is concentrated under reduced pressure to remove tetrahydrofuran, and 100 ml of water are added to the residue. Crystalline precipitates are collected by filtration and recrystallized from a mixture of dimethylformamide and ethanol (1:2). 4.3 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2,4-dimethylaniline are obtained as colorless needles.

reactant | N-(2-amino-5-nitrobenzoyl)-2,4-dimethylaniline | 4.0 g | NC1=C(C(=O)NC2=C(C=C(C=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C15H15N3O3
reactant | pyridine | 2.36 g | N1=CC=CC=C1 | C5H5N
reactant | fluoracetyl chloride | 2.18 g | FCC(=O)Cl | C2H2ClFO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2-fluoroacetamido-5-nitrobenzoyl)-2,4-dimethylaniline | 4.3 g | FCC(=O)NC1=C(C(=O)NC2=C(C=C(C=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C17H16FN3O4
